US05110956
Ethyl-[{1-(6-ethyl-1,3-benzodioxol-5-yl)-1-propyl}thio]-acetate
3.9 g of 1-(6-ethyl-1,3-benzodioxol-5-yl)-1-propanol, 0.1 g of p-toluenesulfonic acid and 3.35 g of ethyl mercaptoacetate were dissolved in 80 ml of benzene. The solution was heated under reflux for 12 h while water was removed. Water was added thereto. After extraction with benzene followed by drying over magnesium sulfate and concentration under reduced pressure, the product was purified according to silica gel column chromatography (ethyl acetate/hexane =1:9) to obtain 4.0 g of the intended compound in the form of a colorless, transparent oil.

reactant | 1-(6-ethyl-1,3-benzodioxol-5-yl)-1-propanol | 3.9 g | C(C)C=1C(=CC2=C(OCO2)C1)C(CC)O | C12H16O3
reactant | ethyl mercaptoacetate | 3.35 g | SCC(=O)OCC | C4H8O2S
reactant | water | O | H2O
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Ethyl-[{1-(6-ethyl-1,3-benzodioxol-5-yl)-1-propyl}thio]-acetate | 4.0 g | C(C)OC(CSC(CC)C1=CC2=C(OCO2)C=C1CC)=O | C16H22O4S
